US09388189B2
(S)-4-Amino-N-(3-hydroxybenzyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide
(S)-4-Amino-N-(3-methoxybenzyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide (103 mg, 0.20 mmol) was treated with boron tribromide (1M in dichloromethane, 0.85 ml, 0.85 mmol) in dichloromethane (8 ml) according to the method described in Example 23. The residue was purified by reverse phase using SP1® Purification System to give 37 mg (36% yield) as a solid. Purity 98%.

reactant | (S)-4-Amino-N-(3-methoxybenzyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide | 0.20 mmol, 103 mg | NC1=NC=NC(=C1C(=O)NCC1=CC(=CC=C1)OC)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C28H28N8O3
reactant | boron tribromide | 0.85 mmol, 1M, 0.85 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | (S)-4-Amino-N-(3-hydroxybenzyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide | 36% yield | NC1=NC=NC(=C1C(=O)NCC1=CC(=CC=C1)O)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C27H26N8O3
